US07851471B2
To a stirred solution of 2-methoxycarbonylmethylpiperazine-1,4-dicarboxylic acid di-tert-butyl ester (662 mg, 1.85 mmol) in anhydrous THF (10 mL) at 0° C. was slowly added a 1M solution of LiAlH4 in THF (5.7 mL, 5.70 mmol). The stirred reaction mixture was allowed to warm to room temperature over a period of 15 minutes before being refluxed for 2 hours. After this time the reaction mixture was cooled to 0° C. and cautiously quenched by the dropwise addition of 1.0M aqueous NaOH solution until the effervescing ceased. The resulting gel was diluted with THF (50 mL) and the solids filtered off. The filtrate was concentrated in vacuo to afford 2-(1,4-dimethylpiperazin-2-yl)ethanol (191 mg, 65%) as a colourless oil.

reactant | 2-methoxycarbonylmethylpiperazine-1,4-dicarboxylic acid di-tert-butyl ester | 1.85 mmol, 662 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC(=O)OC | C17H30N2O6
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5.70 mmol, 5.7 mL | C1CCOC1 | C4H8O
product | 2-(1,4-dimethylpiperazin-2-yl)ethanol | 191 mg, 65% | CN1C(CN(CC1)C)CCO | C8H18N2O
